US09255089B2
To 1-bromo-2,4,6-trifluorobenzene (0.01 ml, 0.12 mmol) in diethyl ether (0.5 mL) at −78° C. was added n-butyllithium (0.13 mL, 0.14 mmol, 1.6 M in hexanes). After 30 tert-butyl 6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-4-(pyrazine-2-carbonyl)-1H-benzo[d]imidazole-1-carboxylate (36.6 mg, 0.08 mmol) in diethyl ether (1 mL) was added drop-wise to the reaction. After 90 minutes, the reaction was warmed, quenched with saturated NH4Cl(aq) (10 mL), extracted with ethyl acetate (3×10 mL), dried over Na2SO4, and concentrated in vacuo. To the crude residue in ethanol (1.5 mL) was added hydrochloric acid (0.20 mL, 0.79 mmol, 4 M in 1,4-dioxane) and the mixture was heated to 70° C. in a microwave reactor for 45 minutes. Purification by reverse-phase HPLC (35-50% acetonitrile/water with 0.01% trifluoroacetic acid, Gemini C18 5μ) afforded 6-(3,5-dimethylisoxazol-4-yl)-4-(hydroxy(pyrazin-2-yl)(2,4,6-trifluorophenyl)methyl)-1H-benzo[d]imidazol-2(3H)-one as a pale yellow solid.

reactant | 1-bromo-2,4,6-trifluorobenzene | 0.12 mmol, 0.01 ml | BrC1=C(C=C(C=C1F)F)F | C6H2BrF3
reactant | n-butyllithium | 0.14 mmol, 1.6 M, 0.13 mL | C(CCC)[Li]
reactant | tert-butyl 6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-4-(pyrazine-2-carbonyl)-1H-benzo[d]imidazole-1-carboxylate | 0.08 mmol, 36.6 mg | CC1=NOC(=C1C=1C=C(C2=C(N(C(=N2)OCC)C(=O)OC(C)(C)C)C1)C(=O)C1=NC=CN=C1)C | C24H25N5O5
reactant | hydrochloric acid | 0.79 mmol, 4 M, 0.20 mL | Cl | ClH
solvent | diethyl ether | 0.5 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 1 mL | C(C)OCC | C4H10O
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | 6-(3,5-dimethylisoxazol-4-yl)-4-(hydroxy(pyrazin-2-yl)(2,4,6-trifluorophenyl)methyl)-1H-benzo[d]imidazol-2(3H)-one | CC1=NOC(=C1C=1C=C(C2=C(NC(N2)=O)C1)C(C1=C(C=C(C=C1F)F)F)(C1=NC=CN=C1)O)C | C23H16F3N5O3
